US04920116
1-[2-Azido-1-(2,4-dichlorophenyl)ethyl]piperidine
In a manner similar to Preparation 21 react 2-azido-1-(2,4-dichlorophenyl)ethanone with piperidine and NaCNBH3 to obtain the title compound.

reactant | 2-azido-1-(2,4-dichlorophenyl)ethanone | N(=[N+]=[N-])CC(=O)C1=C(C=C(C=C1)Cl)Cl | C8H5Cl2N3O
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | NaCNBH3 | [BH3-]C#N.[Na+]
product | 1-[2-Azido-1-(2,4-dichlorophenyl)ethyl]piperidine | N(=[N+]=[N-])CC(C1=C(C=C(C=C1)Cl)Cl)N1CCCCC1 | C13H16Cl2N4
